US05120738
Preparation of N-[4-(Oleoyloxy)phenyl]-3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propanamide
N-(4-hydroxyphenyl)-3-[N-(2,4-diacetoxy-3,3 -dimethyl-1-oxobutyl)amino]propanamide (394 mg) and 301 mg of oleoyl chloride were reacted in the same manner as in Example 6 to obtain 530 mg of the title compound (yield 81%)

reactant | N-(4-hydroxyphenyl)-3-[N-(2,4-diacetoxy-3,3 -dimethyl-1-oxobutyl)amino]propanamide | 394 mg | OC1=CC=C(C=C1)NC(CCNC(C(C(COC(C)=O)(C)C)OC(C)=O)=O)=O | C19H26N2O7
reactant | oleoyl chloride | 301 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N-[4-(Oleoyloxy)phenyl]-3-[N-(2,4-diacetoxy-3,3-dimethyl-1-oxobutyl)amino]propanamide | 530 mg, yield 81% | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC1=CC=C(C=C1)NC(CCNC(C(C(COC(C)=O)(C)C)OC(C)=O)=O)=O | C37H58N2O8
